US07723347B2
4-Chloro-3-methyl-1H-pyrrolo[2,3-b]pyridine
At 50° C., 1.77 ml (22.81 mmol) of methanesulfonyl chloride are added dropwise to a solution of 1.30 g (8.77 mmol) of 3-methyl-1H-pyrrolo[2,3-b]pyridine 7-oxide in 7.5 ml of DMF such that the temperature increases to 59° C. The mixture is then stirred at 70° C. for 4 h. After cooling to room temperature, 30 ml of water are added slowly, at 5° C., the pH is adjusted to 10 by addition of 20% strength sodium hydroxide solution and the mixture is stirred for another hour. The precipitated solid is filtered off, washed with water and then dried under reduced pressure.

reactant | methanesulfonyl chloride | 22.81 mmol, 1.77 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-methyl-1H-pyrrolo[2,3-b]pyridine 7-oxide | 8.77 mmol, 1.30 g | CC1=CNC2=[N+](C=CC=C21)[O-] | C8H8N2O
reactant | water | 30 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DMF | 7.5 ml | CN(C)C=O | C3H7NO
product | 4-Chloro-3-methyl-1H-pyrrolo[2,3-b]pyridine | ClC1=C2C(=NC=C1)NC=C2C | C8H7ClN2
